US06214877B1
Step 2 (5′-Dodecylcarbamoyl-2″-fluoro-4-methoxy-[1,1′;3′,1″]terphenyl-2′-yloxy)acetic acid
The tide compound was prepared as a white solid (0.229 g, 47%) from N-dodecyl-3-(2-fluorophenyl) 5-(4-methoxyphenyl)4-(2-hydroxyethoxy)benzamide using a procedure similar to step 3 of example 1. The product was purifed by preparatory plate chromatography (4% Methanol/EtOAc) followed by flash chromatography (15% EtOAc/Hex and 20% EtOAC/Hex, both with 1% formic acid); 1H NMR (400 MHz, DMSO-d6) δ0.84 (t, J=6.8 Hz, 3H), 1.17-1.27 (m, 18H), 1.44-1.51 (m, 2H), 3.22 (dd, J=6.8, 13.0 Hz, 2H), 3.78 (s, 3H), 3.81 (s, 2H), 6.99-7.02 (m, 2H), 7.23-7.28 (m, 2H), 7.42-7.47 (m, 2H), 7.50-7.57 (m, 2H), 7.71 (d, J=2.2 Hz, 1H), 7.84 (d, J=2.4 Hz, 1H), 8.47 (t, J=5.5, 1H), 12.48 (broad s, 1H); IR (KBr) 3375, 2925, 2850, 1730, 1615, 1200 cm−1; mass spectrum [(+)ESI], m/z 564 (M+H)+; Anal. Calcd. for C34H42FNO5: C, 72.44; H, 7.51; N, 2.48, Found: C, 72.48; H, 7.67; N, 2.46.

reactant | N-dodecyl-3-(2-fluorophenyl) 5-(4-methoxyphenyl)4-(2-hydroxyethoxy)benzamide | C(CCCCCCCCCCC)NC(C1=CC(=C(C(=C1)C1=CC=C(C=C1)OC)OCCO)C1=C(C=CC=C1)F)=O | C34H44FNO4
reactant | Methanol EtOAc | CO.CCOC(=O)C
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | KBr | [K+].[Br-]
solvent | formic acid | C(=O)O | CH2O2
product | (5′-Dodecylcarbamoyl-2″-fluoro-4-methoxy-[1,1′;3′,1″]terphenyl-2′-yloxy)acetic acid | C(CCCCCCCCCCC)NC(=O)C=1C=C(C(=C(C1)C1=CC=C(C=C1)OC)OCC(=O)O)C1=C(C=CC=C1)F | C34H42FNO5
